US06022492
Synthesis of 2-chloro-5-(6-hexyloxypyridin-3-yl)pyrimidine
A reaction of 5-bromo-2-chloropyrimidine and 2-hexyloxypyridine-5-boronic acid is carried out analogously to the procedure indicated for precursor 3. Corresponding purification gives a colorless solid.

reactant | 5-bromo-2-chloropyrimidine | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2-hexyloxypyridine-5-boronic acid | C(CCCCC)OC1=NC=C(C=C1)B(O)O | C11H18BNO3
product | 2-chloro-5-(6-hexyloxypyridin-3-yl)pyrimidine | ClC1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCC | C15H18ClN3O
